US06878718B2
3-Ethoxy-2-hexyl-4,4-dimethyl-2-cyclobuten-1-one
The title compound was prepared using a modification of the method of Wasserman, H. H. et al, [J. Org. Chem, 38, 1451-1455, (1973)]; triethylamine (22 ml) was added dropwise at room temperature to a well-stirred solution of isobutyryl chloride (7.3 ml, 69 mmol) and 1-ethoxy-1-octyne [prepared according to the method of Kocienski, P. et al. Tetrahedron Lett. 1833, 30, (1989)] (6.5 g, 63 mmol) in diethylether (100 ml). The reaction was warmed to 35° and stirred for 96 h prior to cooling and filtration. The filtrate was concentrated in vacuo and the residual oil chromatographed (SiO2; hexanes 80:EtOAc 20) to give the title compound as a brown oil (8.6 g, 38 mmol, 61%). δH (CDCl3, 300K) 4.34 (2H, d, J 7.1 Hz), 2.05 (2H, dd, J 5.6 Hz, 7.3 Hz), 1.44 (3H, t, J 7.1 Hz), 1.27-1.12 (8H, m), 1.23 (6H, s), 0.89 (3H, t, J 2.7 Hz). m/z (ES+, 70V) 225.0 (MH+).

reactant | triethylamine | 22 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 69 mmol, 7.3 ml | C(C(C)C)(=O)Cl | C4H7ClO
reactant | 1-ethoxy-1-octyne | C(C)OC#CCCCCCC | C10H18O
solvent | diethylether | 100 ml | C(C)OCC | C4H10O
product | 3-Ethoxy-2-hexyl-4,4-dimethyl-2-cyclobuten-1-one | 38 mmol, 8.6 g, 61% | C(C)OC1=C(C(C1(C)C)=O)CCCCCC | C14H24O2
